US05319133
B. Preparation of N-chloro-2-ethylhexyl carboxamide
2-ethylhexyl carboxamide (35.75 g, 250 mmol) was suspended in 300 ml of ethyl acetate and cooled to 1°. Hypochlorous acid (43.3 g of 30.6% solution, 252 m mol) was added dropwise over 13 minutes with stirring. After 10 minutes, the cooling bath was removed and stirring continued for 1 hour while the mixture warmed to room temperature. The ethyl acetate layer was then separated and dried (MgSO4) and the solvent was removed on the rotary evaporator and, finally, on the vacuum pump to give 44 g (98%) of colorless liquid N-chloro-2-ethylhexyl carboxamide.

reactant | 2-ethylhexyl carboxamide | 250 mmol, 35.75 g | C(C)C(CC(=O)N)CCCC | C9H19NO
reactant | Hypochlorous acid | 43.3 g | ClO | ClHO
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | N-chloro-2-ethylhexyl carboxamide | 44 g, 98% | ClNC(=O)CC(CCCC)CC | C9H18ClNO
